US09290490B2
To a solution of 1,4-dioxaspiro[4.5]dec-8-yl[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methanone (Ex 1-20) (100 mg, 0.20 mmol) in methanol (5 mL) was added sodium borohydride (22.5 mg, 0.60 mmol). After one hour, water was carefully added and then diluted with ethyl acetate and water. The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo. Flash chromatography on silica gel (0-100% ethyl acetate gradient with hexanes) afforded 1,4-dioxaspiro[4.5]dec-8-yl[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methanol. MS ESI calc'd. for C24H26F3N4O3S [M+H]+ 507. found 507. 1H NMR (500 MHz, DMSO-d6) δ 10.24 (s, 1H), 8.83 (d, J=4.9, 1H), 7.97-7.94 (m, 2H), 7.45 (s, 1H), 7.27 (d, J=4.9, 1H), 7.15 (s, 1H), 6.18 (d, J=5.1, 1H), 4.61 (t, J=5.1, 1H), 3.80 (s, 4H), 2.30 (s, 3H), 1.84-1.72 (m, 1H), 1.71-1.61 (m, 2H), 1.61-1.51 (m, 2H), 1.52-1.28 (m, 4H). rhSyk=++.

reactant | 1,4-dioxaspiro[4.5]dec-8-yl[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methanone | 0.20 mmol, 100 mg | O1CCOC12CCC(CC2)C(=O)C=2SC(=CN2)C2=CC(=CC(=C2)NC2=NC=CC(=N2)C(F)(F)F)C | C24H23F3N4O3S
reactant | sodium borohydride | 0.60 mmol, 22.5 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1,4-dioxaspiro[4.5]dec-8-yl[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methanol | O1CCOC12CCC(CC2)C(O)C=2SC(=CN2)C2=CC(=CC(=C2)NC2=NC=CC(=N2)C(F)(F)F)C | C24H25F3N4O3S
